US07612211B2
A. 5-bromo-2-chloromethyl-1H-benzimidazole
Using the procedure for Step D in Example 1 (as described in J. Med. Chem., 1986, 29, 2280), the title compound was prepared from 4-bromo-benzene-1,2-diamine (200 mg, 1.07 mmol) and 2-chloroacetimidic acid ethyl ester hydrochloride salt (168 mg, 1.07 mmol) and was obtained as an off-white solid (240.3 mg, 92% yield). 1H NMR (400 MHz, CD3OD) δ (ppm): 7.75 (d, 1H, J=1.4 Hz), 7.47 (d, 1H, J=8.6 Hz), 7.74 (dd, 1H, J=8.6 Hz, J=1.3 Hz), 4.84 (s, 2H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C18H20ClN3O2S: 247.50 (M+H), Found 247.0.

reactant | 4-bromo-benzene-1,2-diamine | 1.07 mmol, 200 mg | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | 2-chloroacetimidic acid ethyl ester hydrochloride salt | 1.07 mmol, 168 mg | Cl.C(C)OC(CCl)=N
product | 5-bromo-2-chloromethyl-1H-benzimidazole | BrC1=CC2=C(NC(=N2)CCl)C=C1 | C8H6BrClN2
